US07501413B2
A solution of 600 mg (2.9 mmol) of 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one (prepared according to C. F. Bigge et al., patent application WO 2003045912) in 10 ml of THF was cooled to −78° C. and treated dropwise with 3.2 ml of a 1M lithium bis(trimethylsilyl)amide-solution in THF and stirred for 30 min. To this solution 500 mg (3.2 mmol) of (1SR,5SR,6SR) 2-oxo-3-oxa-bicyclo[3.1.0]hexane-6-carboxylic acid ethyl ester dissolved in 5m of THF were added portionwise. The mixture was allowed to reach RT and stirred for 10 hrs. The mixture was then poured into a diluted aqueous HCl-solution (ca. 0.2 M) and extracted with AcOEt. The combined organic phases were dried with Na2SO4. Filtration, evaporation of the solvent gave 630 mg (57%) of (1SR,2SR,3RS) 2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-3-hydroxymethyl-cyclopropanecarboxylic acid ethyl ester. Orange foam. MS: 373 (M−H)−.

reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | 2.9 mmol, 600 mg | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
reactant | lithium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (1SR,5SR,6SR) 2-oxo-3-oxa-bicyclo[3.1.0]hexane-6-carboxylic acid ethyl ester | 3.2 mmol, 500 mg | C(C)OC(=O)C1C2COC(C12)=O | C8H10O4
reactant | HCl | ca. 0.2 M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (1SR,2SR,3RS) 2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-3-hydroxymethyl-cyclopropanecarboxylic acid ethyl ester | 630 mg, 57% | C(C)OC(=O)C1C(C1CO)C(NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F)=O | C19H19FN2O5
